* EESchema Netlist Version 1.1 (Spice format) creation date: Mi 28 Aug 2013 11:26:05 CEST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
R102  7 1 1.5k		
D102  7 11 LED		
D101  16 11 LED		
R101  16 3 1.5k		
K101  8 10 18 CONN_3		
K102  11 4 22 XLR3		
J102  19 11 15 JACK_2P		
J101  13 11 2 JACK_2P		
*Sheet Name:/USB Anschluss/
R1004  40 9 22		
R1003  25 17 22		
C1004  39 10 100n		
C1003  32 10 100n		
C1002  33 24 100n		
C1001  23 24 100n		
U1001  23 24 33 37 31 38 35 24 10 40 25 30 29 32 10 39 ADUM3160		
R1002  34 35 22		
R1001  36 38 22		
L1001  41 28 36 34 ACM3225		
D1001  26 24 27 41 24 28 SN65220		
J1001  23 41 28 24 USB-BUCHSE		
*Sheet Name:/USB Anschluss/Zusätzliche Beschaltung des Kopplers/
K1104  10 29 32 CONN_3		
K1103  10 30 32 CONN_3		
K1102  24 31 33 CONN_3		
K1101  24 37 33 CONN_3		
*Sheet Name:/Clip Detection/
C201  114 11 47u		
R202  114 11 4.7k		
R201  54 114 2k		
C205  113 11 10n		
R204  54 115 10k		
C203  115 11 10u		
U202  118 118 117 54 3 112 11 116 1 54 113 115 115 54 NE556		
C202  118 11 10u		
R203  54 118 10k		
C204  117 11 10n		
U201  112 6 114 11 114 14 116 54 LM393		
*Sheet Name:/DC/DC/
U302  111 39 106 LM317		
C304  106 10 0.1u		
R305  111 10 750		
R307  39 111 270		
C306  111 10 10u		
D306  111 39 1N4002		
D304  39 106 1N4002		
C308  39 10 1u		
C309  54 11 1u		
D305  54 106 1N4002		
D307  110 54 1N4002		
C307  110 11 10u		
R308  54 110 270		
R306  110 11 750		
C305  106 11 0.1u		
U303  110 54 106 LM317		
U301  107 65 106 LM317		
C301  106 11 0.1u		
R301  107 11 2.2k		
R303  65 107 240		
C302  107 11 10u		
D303  107 65 1N4002		
D302  65 106 1N4002		
C303  65 11 1u		
R304  10 11 0		
R302  109 10 0		
D301  108 106 1N5817		
P301  108 109 CONN_2		
*Sheet Name:/Common GND/
C401  104 11 10u		
C403  54 11 100n		
C402  54 11 10u		
R402  104 11 10k		
R401  54 104 10k		
R403  105 5 5.1k		
U401  105 104 11 5 54 TL071		
*Sheet Name:/Filter ADC/
S501  103 91 20 102 88 20 DPDT		
R503  54 102 22k		
C502  19 102 47u		
R504  102 11 22k		
R502  103 11 22k		
C501  15 103 47u		
R501  54 103 22k		
C510  54 11 100n		
C509  54 11 10u		
U501  96 96 93 54 100 101 101 6 6 98 11 97 14 14 TL074		
C504  100 5 680p		
R508  99 100 9.1k		
C506  99 101 6.8n		
R506  88 99 1.1k		
R510  101 97 1k		
C508  97 5 6.8n		
C507  98 5 6.8n		
R509  96 98 1k		
R505  91 92 1.1k		
C505  92 96 6.8n		
R507  92 93 9.1k		
C503  93 5 680p		
*Sheet Name:/Filter DAC/
R612  75 72 100		
C612  72 13 10u		
C611  76 2 10u		
R611  74 76 100		
R603  54 83 22k		
R604  83 11 22k		
C602  21 83 47u		
C601  12 82 47u		
R602  82 11 22k		
R601  54 82 22k		
C610  54 11 100n		
C609  54 11 10u		
U601  77 77 70 54 78 80 80 74 74 73 11 79 75 75 TL074		
C604  78 5 680p		
R608  81 78 9.1k		
C606  81 80 6.8n		
R606  83 81 1.1k		
R610  80 79 1k		
C608  79 5 6.8n		
C607  73 5 6.8n		
R609  77 73 1k		
R605  82 71 1.1k		
C605  71 77 6.8n		
R607  71 70 9.1k		
C603  70 5 680p		
*Sheet Name:/Mikrofonverstärker/
R704  11 64 4.7k		
R706  64 54 4.7k		
SW701  65 68 11 SWITCH_INV		
C703  54 11 10u		
C704  54 11 100n		
RV701  66 66 67 50k		
R707  63 67 47		
R705  69 54 4.7k		
R703  11 69 4.7k		
C702  22 64 47u		
C701  4 69 47u		
R702  4 68 680		
R701  22 68 680		
U701  66 64 69 11 5 20 54 63 AD620		
*Sheet Name:/Audio Codec mit USB Schnittstelle/
C809  6 55 4.7u		
C808  14 48 4.7u		
D801  54 51 DIODESCH		
C805  10 49 1uF		
R804  49 39 2.2		
C801  51 11 10uF		
C802  50 10 1uF		
C803  53 10 1uF		
C804  43 10 1uF		
C806  52 11 10uF		
C807  58 10 1uF		
R807  61 44 1.5k		
R806  45 44 1.5k		
R805  60 44 1.5k		
P801  47 60 59 45 46 61 CONN_3X2		
R801  9 58 1.5k		
R803  9 56 22		
R802  17 57 22		
U801  56 57 49 10 47 59 46 58 58 51 11 48 55 52 21 12 50 11 53 42 62 11 43 18 8 10 58 44 PCM2906C		
*Sheet Name:/Audio Codec mit USB Schnittstelle/PCM2906C Crystal/
R901  42 62 1M		
C901  42 10 C		
C902  62 10 C		
X901  42 62 12MHz		

.end
